US04319916
3-Acetyl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone
Ten g. of 1-(3-trifluoromethylphenyl)-2,4-pentanedione was reacted with 40 ml. of N,N-dimethylformamide dimethyl acetal, and then with 10 ml. of 40% aqueous methylamine, as described in the examples above. The reaction mixture was evaporated under vacuum, and the residue was taken up in 1.5 liters of dichloromethane. The solution was washed with 1 liter of water, and the organic layer was dried with magnesium sulfate, treated with activated charcoal, filtered and evaporated under vacuum. The residue was triturated under diisopropyl ether, and a yellow powdery solid crystallized. The solid was found to be 4.56 g. of the desired product, m.p. 130°-131°, showing the following peaks in nmr analysis: δ8.10 (d, J=3 Hz, H2 of pyridine); 8.0-7.3 (m, 4H, aromatic); 7.43 (d, J=3 Hz, H6 of pyridine); 3.77 (s, 3H, N--CH3); 2.73 (s, 3H, COCH3).

reactant | 1-(3-trifluoromethylphenyl)-2,4-pentanedione | FC(C=1C=C(C=CC1)CC(CC(C)=O)=O)(F)F | C12H11F3O2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | methylamine | CN | CH5N
product | 3-Acetyl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | C(C)(=O)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C15H12F3NO2
